US04103086
When cis-2-hydroxymethyl-1-(2,4-dimethoxybenzyl)-3-(4,5-diphenyl-2-oxo-4-oxazolin-3-yl)-4-oxoazetidine is reacted according to Example 13 except that mesyl chloride is substituted for p-toluenesulfonyl chloride, cis-3-(4,5-diphenyl-2-oxo-4-oxazolin-3-yl)-4-oxo-2-azetidinylmethyl mesylate is obtained; 73% yield, mp 185°-8° from ethyl acetate-hexane.

reactant | cis-2-hydroxymethyl-1-(2,4-dimethoxybenzyl)-3-(4,5-diphenyl-2-oxo-4-oxazolin-3-yl)-4-oxoazetidine | OC[C@@H]1N(C([C@@H]1N1C(OC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)CC1=C(C=C(C=C1)OC)OC | C28H26N2O6
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | cis-3-(4,5-diphenyl-2-oxo-4-oxazolin-3-yl)-4-oxo-2-azetidinylmethyl mesylate | 73% yield | S(C)(=O)(=O)OC[C@@H]1NC([C@@H]1N1C(OC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C20H18N2O6S
